US06340759B1
A mixed solution of 1-(4-ethylpiperazin-1-yl)-3-bromoisoquinoline (1.00 g), acetophenone (1.50 g) and tert-butoxypotassium (1.40 g) in dimethyl sulfoxide (50 ml) was irradiated with light (450 W; mercury-vapor lamp) at room temperature for 5 hr. Water (200 ml) was added to the reaction solution, and the mixture was extracted with ethyl acetate. The resulting organic layer was washed with water and brine, and then extracted with a 2N aqueous solution of hydrochloric acid (100 ml). The resulting aqueous layer was basified with sodium carbonate and extracted with ethyl acetate. The ethyl acetate layer was washed with water and brine, and dried over magnesium sulfate. The solvent was removed, to give 1-(4-ethylpiperazin-1-yl)-3-phenacylisoquinoline (1.0 g) as a pale yellow oil.

reactant | 1-(4-ethylpiperazin-1-yl)-3-bromoisoquinoline | 1.00 g | C(C)N1CCN(CC1)C1=NC(=CC2=CC=CC=C12)Br | C15H18BrN3
reactant | acetophenone | 1.50 g | C(C)(=O)C1=CC=CC=C1 | C8H8O
reactant | tert-butoxypotassium | 1.40 g | C(C)(C)(C)O[K]
reactant | Water | 200 ml | O | H2O
solvent | dimethyl sulfoxide | 50 ml | CS(=O)C | C2H6OS
catalyst | mercury | [Hg] | Hg
product | 1-(4-ethylpiperazin-1-yl)-3-phenacylisoquinoline | 1.0 g | C(C)N1CCN(CC1)C1=NC(=CC2=CC=CC=C12)CC(=O)C1=CC=CC=C1 | C23H25N3O
